US07355049B2
A solution of lithium hydroxide monohydrate (0.027 g, 0.64 mmol) in water (1 mL) was added to a solution of (rac)-1-[5-(biphenyl-4-yloxymethyl)-furan-2-carbonyl]-piperidine-2-carboxylic acid ethyl ester (0.085 g, 0.2 mmol) in tetrahydrofuran (3 mL) and methanol (1 mL). The mixture was stirred overnight at room temperature and then the solvents were evaporated under reduced pressure. Water and ethyl acetate were added, and the mixture was acidified to pH 2 with 1 M HCl and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried (sodium sulfate), filtered, and evaporated. The residue was triturated with ether. The ether and dissolved impurities were removed by Pasteur pipette to give (rac)-1-[5-(biphenyl-4-yloxymethyl)-furan-2-carbonyl]-piperidine-2-carboxylic acid (66 mg, 83%) as a white solid.

reactant | lithium hydroxide monohydrate | 0.64 mmol, 0.027 g | O.[OH-].[Li+]
reactant | (rac)-1-[5-(biphenyl-4-yloxymethyl)-furan-2-carbonyl]-piperidine-2-carboxylic acid ethyl ester | 0.2 mmol, 0.085 g | C(C)OC(=O)C1N(CCCC1)C(=O)C=1OC(=CC1)COC1=CC=C(C=C1)C1=CC=CC=C1 | C26H27NO5
solvent | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | (rac)-1-[5-(biphenyl-4-yloxymethyl)-furan-2-carbonyl]-piperidine-2-carboxylic acid | 66 mg, 83% | C1(=CC=C(C=C1)OCC1=CC=C(O1)C(=O)N1C(CCCC1)C(=O)O)C1=CC=CC=C1 | C24H23NO5
